US05310499
(4R)-3-[4-(4'-Decyloxybiphenyl-4-oxycarbonyl)benzyl]-4-phenyl-2-oxazolidinone
505 mg (1.07 mmol) of (4R)-(-)-3-(4-carboxyphenylmethyl)-4-phenyl-2-oxazolidinone and 555 mg (1.7 mmol) of 4-decyloxy-4'-hydroxybiphenyl and 31 mg of DMAP are dissolved in 17 ml of absolute CH2Cl2, and 390 mg (1.7 mmol) of DCCI are added. The crude product is purified by chromatography.

reactant | (4R)-(-)-3-(4-carboxyphenylmethyl)-4-phenyl-2-oxazolidinone | 1.07 mmol, 505 mg | C(=O)(O)C1=CC=C(C=C1)CN1C(OC[C@H]1C1=CC=CC=C1)=O | C17H15NO4
reactant | 4-decyloxy-4'-hydroxybiphenyl | 1.7 mmol, 555 mg | C(CCCCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C22H30O2
reactant | DCCI | 1.7 mmol, 390 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 31 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 17 ml | C(Cl)Cl | CH2Cl2
product | (4R)-3-[4-(4'-Decyloxybiphenyl-4-oxycarbonyl)benzyl]-4-phenyl-2-oxazolidinone | C(CCCCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)OC(=O)C1=CC=C(CN2C(OC[C@H]2C2=CC=CC=C2)=O)C=C1 | C39H43NO5
